US06441005B1
5-(S)-Aminomethyl-3-[4′-ethylsulfinyl-3′-fluorophenyl]oxazolidine-2-one
This compound was prepared analogously to the synthesis of 5-(S)-aminomethyl-3-[4′-methylsulfinyl-3′-fluorophenyl]oxazolidine-2-one from 5-(S)-azidomethyl-3-[4′-ethylsulfinyl-3′-fluorophenyl]oxazolidine-2-one (0.235 g, 0.752 mmol) and triphenylphosphine (0.207 g, 0.790 mmol). Yield 0.177 g (82%). MS (m/z): [M+H]+=287.

reactant | 5-(S)-aminomethyl-3-[4′-methylsulfinyl-3′-fluorophenyl]oxazolidine-2-one | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)C)F | C11H13FN2O3S
reactant | 5-(S)-azidomethyl-3-[4′-ethylsulfinyl-3′-fluorophenyl]oxazolidine-2-one | 0.752 mmol, 0.235 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)CC)F | C12H13FN4O3S
reactant | triphenylphosphine | 0.790 mmol, 0.207 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 5-(S)-Aminomethyl-3-[4′-ethylsulfinyl-3′-fluorophenyl]oxazolidine-2-one | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)CC)F | C12H15FN2O3S
